US07723347B2
Methyl (6-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)(2-fluoro-4-nitrophenyl)acetate
908 mg (4.26 mmol) of ethyl (2-fluoro-4-nitrophenyl)acetate are dissolved in 10 ml of DMF, and 170 mg (4.26 mmol) of sodium hydride (60% in mineral oil) are added. The mixture is stirred at RT for 30 min, and 698 mg (2.13 mmol) of 6-chloro-4-nitro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine are then added. The mixture is heated at 70° C. for 2 hours and then stirred into ice-water and extracted with ethyl acetate. The organic phase is washed with water and saturated sodium chloride solution, dried over sodium sulfate and concentrated under reduced pressure. The product is purified by chromatography on silica gel (mobile phase: dichloromethane/pentane 2:1).

reactant | ethyl (2-fluoro-4-nitrophenyl)acetate | 4.26 mmol, 908 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)OCC | C10H10FNO4
reactant | sodium hydride | 4.26 mmol, 170 mg | [H-].[Na+]
reactant | 6-chloro-4-nitro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 2.13 mmol, 698 mg | ClC1=CC(=C2C(=N1)N(C=C2)COCC[Si](C)(C)C)[N+](=O)[O-] | C13H18ClN3O3Si
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Methyl (6-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)(2-fluoro-4-nitrophenyl)acetate | ClC1=CC(=C2C(=N1)N(C=C2)COCC[Si](C)(C)C)C(C(=O)OC)C2=C(C=C(C=C2)[N+](=O)[O-])F | C22H25ClFN3O5Si
